US04960938
A 250 mL, round-bottomed, 3-necked flask was charged with 82.5 g of 20% aqueous potassium hydroxide and 20 g (73.6 mmol) of 2-chlorobenzylphthalimide. The reaction mixture was refluxed (bath temperature 130° C.) for 18.3 h with stirring, and then allowed to cool to room temperature. A mixture containing 50 mL of water and 50 mL of concentrated hydrochloric acid was then added dropwise and the reaction mixture was heated under reflux for a further 22.5 hours. The reaction mixture was then allowed to cool, and the cooled reaction mixture was filtered, and the collected solids were washed with 5×10 mL of water, and dried in a vacuum oven. NMR, IR and GC analysis indicated these to be mainly phthalic acid contaminated with 2-chlorobenzylphthalamic acid (11.2 g, 92%). The filtrate was rendered basic (pH 10) by the addition of potassium hydroxide pellets, and was then extracted with 4×100 mL of methylene chloride. After stripping of the solvent, a 98% yield (10.23 g) of 2-chlorobenzylamine was obtained (purity 99% by GC).

reactant | potassium hydroxide | 82.5 g | [OH-].[K+]
reactant | 2-chlorobenzylphthalimide | 73.6 mmol, 20 g | ClC1=C(CC2=C3C(C(=O)NC3=O)=CC=C2)C=CC=C1 | C15H10ClNO2
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 2-chlorobenzylamine | 10.23 g, 98% yield | ClC1=C(CN)C=CC=C1 | C7H8ClN
